Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],4.54326511836
[H:1][C:2].[O:3]=[C:4][O:5][C:6]#[C:7][H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]#[C:7][H:8],-3.16621468282
[C:3]([H:4])[H:5].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[H:5],-4.6356392716000006
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:8]#[C:9].[H:7]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9],-2.4185998634400003
[H:1][C:2]#[C:3][O:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.0852646872399
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11],-0.552441971141
[H:7].[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.98111159905
[H:1][O:2][C:3]([O:4][H:5])([C:6][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.87115700326
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7]>>[C:1](=[O:3])[H:7].[C:2]#[C:5][O:6][H:4],2.98281288455
[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15],-4.76902811004
[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.92183323886
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.704188950390001
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[O:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-5.93797993995
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-3.48920986519
[O:1]=[C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2][O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10],2.25704254233
[C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.96969314786
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]#[C:6][O:7][C:8]([H:9])[H:10].[H:5],2.48917247934
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],3.25811650027
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7],3.55771176931
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],4.202322017769999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.615966189040001
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.15978089312
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.63147550204
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.77255242889
[H:8].[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.798782811050001
[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],3.92443467115
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6],4.07899448785
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.699615917449
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.63629535455
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.791517657968
